US04767882
To a suspension of aluminum lithium hydride (6.5 g; 0.171 mol) in tetrahydrofuran (100 ml), a solution of (S)-3-(2-chloroethyl)-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene ([α]546 --33.4° (C=1.17 in ethanol)) (44.8 g; 0.169 mol) in tetrahydrofuran was dropwise added thereto. The resultant mixture was heated with reflux for 12 hours and then cooled. The cooled mixture was treated with dilute hydrochloric acid and extracted with n-hexane. The extract was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated to give (R)-3-ethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene (37.0 g; 0.161 mol; 94%). B.P., 79°-80° C./0.15 mmHg. [α]546 +2.2° (C=0.95 in ethanol).

reactant | aluminum lithium hydride | 0.171 mol, 6.5 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | (S)-3-(2-chloroethyl)-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 0.169 mol, 44.8 g | ClCC[C@@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C17H25Cl
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (R)-3-ethyl-1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphthalene | 0.161 mol, 37.0 g, 94% | C(C)[C@@H]1CC(C2=CC=C(C=C2C1(C)C)C)(C)C | C17H26
